US05409943
(c) N-[3-(2-Chloro-6-fluorobenzyloxy)-6-methylpyrid-2-yl]-N'-(4chlorophenyl)guanidine
A mixture of yellow mercuric oxide (0.58 g, 0.0027 mol), N-[3-(2-chloro-6-fluorobenzyloxy)-6-methylpyrid-2-yl]-N'-4-chlorophenylthiourea (1.00 g, 0.0023 mol) and methanolic ammonia solution (30 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by recrystallisation from ethanol gave the desired product. Yield 0.52 g (54%), m.p. 148°-149 ° C.

reactant | N-[3-(2-chloro-6-fluorobenzyloxy)-6-methylpyrid-2-yl]-N'-4-chlorophenylthiourea | 0.0023 mol, 1.00 g | ClC1=C(COC=2C(=NC(=CC2)C)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C20H16Cl2FN3OS
reactant | ammonia | 30 ml | N | H3N
product | N-[3-(2-Chloro-6-fluorobenzyloxy)-6-methylpyrid-2-yl]-N'-(4chlorophenyl)guanidine | ClC1=C(COC=2C(=NC(=CC2)C)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C20H17Cl2FN4O
